US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-[bis(phenylsulfonyl)amino]-1-benzo-thiophene-2-carboxamide hydrochloride
40 mg (0.11 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-amino-1-benzo-thiophene-2-carboxamide hydrochloride are dissolved in 2 ml of DMF, 6.5 mg (0.05 mmol) of N,N-dimethyl-4-aminopyridine, 59.6 μl (0.43 mmol) of triethylamine and 27.2 μl (0.21 mmol) of benzenesulfonyl chloride are added and the mixture is stirred at room temperature for 16 h. The reaction mixture is purified by preparative HPLC. The product is dissolved in a mixture of 1N aqueous hydrochloric acid and acetonitrile, then again concentrated and dried under high vacuum. 33 mg (50% of theory) of the title compound are obtained.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-6-amino-1-benzo-thiophene-2-carboxamide hydrochloride | 0.11 mmol, 40 mg | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)N
reactant | triethylamine | 0.43 mmol, 59.6 μl | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 0.21 mmol, 27.2 μl | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | N,N-dimethyl-4-aminopyridine | 0.05 mmol, 6.5 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-[bis(phenylsulfonyl)amino]-1-benzo-thiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)N(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | InChI=1S/C28H27N3O5S3.ClH/c32-28(29-25-19-30-15-13-20(25)14-16-30)27-17-21-11-12-22(18-26(21)37-27)31(38(33,34)23-7-3-1-4-8-23)39(35,36)24-9-5-2-6-10-24;/h1-12,17-18,20,25H,13-16,19H2,(H,29,32);1H/t25-;/m0./s1
